US06596772B1
To 1-Methyl-5-Trifluoromethansulfonylamino-1H-Indole-2-Carboxylic Acid (0.51 g, 1.6 mmol) in 8 ml of DMF was added HOBt (240 mg, 1.8 mmol), EDC (370 mg, 1.9 mmol), TEA (0.445, 3.2 mmol), and 3-aminobenzoic acid ethyl ester (265 mg, 1.6 mmol). The reaction mixture was stirred at room temperature for a day. The reaction was diluted with 200 ml of methylene dichloride and washed with water and brine, then concentrated. The residue was treated with 40 ml of MeOH and 20 ml of 1H NaOH. The reaction mixture was stirred at room temperature for 4 hr and then concentrated via a rotor-evaporator to remove the methanol. The aqueous solution was adjusted pH to 4 with 6N HCl. The solid was filtered, washed with water, and purified by either recrystalization with CH2Cl2/Hexane or flash column using 30% EtOAc/Hexane with 1% AcOH to give 0.19 g of 3-[1-Methyl-5-trifluoromethansulfonylamino-1H-indole-2-carbonyl)-amino]-benzoic acid as a beige solid. 1H-NMR (400 MHz, DMSO-d6) δ 12.75 (s, 1H, COOH), 11.68 (s, 1H, SNH), 10.65 (s, 1H, NHCO), 7.93 (m, 4H, ArH), 7.64 (m, 2H, H-7 & H-4), 7.38 (s, 1H, H-3), 7.20 (dd, J=1.6, 9 Hz, H-6), 4.01 (s, 3H, CH3), MS, m/z, 440 (M−H).

reactant | 1-Methyl-5-Trifluoromethansulfonylamino-1H-Indole-2-Carboxylic Acid | 1.6 mmol, 0.51 g | CN1C(=CC2=CC(=CC=C12)NS(=O)(=O)C(F)(F)F)C(=O)O | C11H9F3N2O4S
reactant | HOBt | 1.8 mmol, 240 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.9 mmol, 370 mg
reactant | 3-aminobenzoic acid ethyl ester | 1.6 mmol, 265 mg | C(C)OC(C1=CC(=CC=C1)N)=O | C9H11NO2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | methylene dichloride | 200 ml | C(Cl)Cl | CH2Cl2
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
